US07977331B1
To a solution of methyl 12-cyclohexyl-3-(piperidin-3-yloxy)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (43 mg, 0.091 mmol) in pyridine (0.5 ml) was added dropwise methanesulfonyl chloride (8.5 μl, 0.11 mmol), and the mixture was stirred at 0° C. for 2 hr. Toluene was added to the reaction mixture and the solvent was evaporated under reduced pressure. Hexane and ethyl acetate were added to the obtained residue, and the precipitate was collected by filtration, washed with hexane, and dried in vacuo to give methyl 12-cyclohexyl-3-(1-methanesulfonylpiperidin-3-yloxy)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (47 mg, yield 94%).

reactant | methyl 12-cyclohexyl-3-(piperidin-3-yloxy)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.091 mmol, 43 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC4CNCCC4)C=C(C=C2)C(=O)OC | C29H34N2O4
reactant | methanesulfonyl chloride | 0.11 mmol, 8.5 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | methyl 12-cyclohexyl-3-(1-methanesulfonylpiperidin-3-yloxy)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 47 mg, yield 94% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC4CN(CCC4)S(=O)(=O)C)C=C(C=C2)C(=O)OC | C30H36N2O6S
